US04841077
A mixture of 4',5,7-triacetoxy-2-bromomethylisoflavone (1 g) and 48% hydrobromic acid (7 ml) was heated at 100° C. for one hour, the reaction mixture was cooled with stirring, and the solid which separated out was collected by filtration and washed with water, giving 0.7 g of 4',5,7-trihydroxy-2-bromomethylisoflavone.

reactant | 4',5,7-triacetoxy-2-bromomethylisoflavone | 1 g | C(C)(=O)OC1=CC=C(C2=C(OC3=CC(=CC(=C3C2=O)OC(C)=O)OC(C)=O)CBr)C=C1 | C22H17BrO8
reactant | hydrobromic acid | 7 ml | Br | BrH
product | 4',5,7-trihydroxy-2-bromomethylisoflavone | 0.7 g | OC1=CC=C(C2=C(OC3=CC(=CC(=C3C2=O)O)O)CBr)C=C1 | C16H11BrO5
